Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Compazine / Seroquel / Haldol / fentanyl
 
Attending: ___.
 
Chief Complaint:
Sickle Cell Acute Painful Episode
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
Mr ___ is a ___ y/o M with sickle cell disease who presents 
with right arm pain, hip pain, vomitting, and decreased PO 
intake. 

Patient has recently transitioned care from ___ in the 
past to ___ since ___, including PCP, ___, and 
hematology. Since transitioning, his PCP has been ___ 
his ouptatient narcotic regimen (from 100-30mg oxycodone pills 
per week to 60-30mg oxycodone pills per week), and in this 
setting, the patient has had multiple recent hospitalizations 
for acute pain episodes, including one episode of acute chest 
syndrome. Most recent admission the patient left despite still 
having hip pain and feeling unwell, and now returns with similar 
complaints to prior 3 admissions, including hip/back/shoulder 
pain, nausea/vomiting and R groin pain, and now with new R 
arm/elbow pain.

Patient describes that most of his pain from the last three 
admissions is unchanged and not improved, including his typical 
sickle cell back, shoulder, hip pain, as well as L groin pain 
with tender LNs which has been stable since last admissions. He 
also notes recurrence of N/V and intolerance of anything PO for 
the last 4 days prior to admission, and new R arm/elbow joint 
pain preventing full extension for the last 2 days prior to 
admission. This new pain is what prompted his presentation to 
the ED. The pain is described as ___, without anything that 
relieves the pain. Pain in elbow worsened with extension, 
lessened in the flexed position. Denies any recent trauma. Notes 
a fever at home. He reports vomiting up anything he eats, 
without digesting, with bilious liquid and food particles, 
non-bloody. 

He has had 3 prior admissions since ___. 
-The first was at ___ for somnolence and concern for 
narcotics overdose which improved with narcan; he reported that 
he took xanax and a shot of alcohol, and was not abusing his 
pain medicine. 
-The second was ___ for pneumonia/acute chest syndrome. During 
this admission he had three blood transfusions with a 
transfusion threshold of 8 due to bradycardia secondary to 
decreased perfusion of the AV node in the setting of sickle cell 
exacerbation. Treated with cefpodoxime (stopped azithromycin due 
to prolonged QT)
-The most recent was ___ for a pain crisis, for which he was 
started on a ketamine drip, which was subsequently stopped as 
his pain management was tapered; he also had tender inguinal 
lymphadenopathy, during which a work-up for prostatitis, uti, 
and gonorrhea/chlamydia was negative, along with a negative MRI 
for any concerning areas of infection, and only mildly enlarged 
LNs. 

 
Past Medical History:
Sickle Cell
-prior acute chest syndrome requiring intubation, age ___
-prior exchange transfusions. 
-On exjade (deferasirox) for iron overload secondary to 
transfusions
-bilateral AVN of femoral head, first noted at age ___, requiring 
surgery with b/l core decompression at age ___ (___)
-?stroke- left-sided infarcts noted on head imaging 
(asymptomatic) around age ___
-functionally asplenic, uptodate on vaccines
-___ crises per year, worse in the winter
-Port A Cath placement x 4 given inability to achieve IV access  

-Appendectomy  
-Cholecystectomy
 
Social History:
___
Family History:
Sickle cell trait in family. Grandmother with breast cancer.
 
Physical Exam:
ADMISSION EXAM:
=====================
Vitals: 98.5, 104/50, 74, 18, 100% 2L
General: NAD, holding right arm flexed at side
HEENT: NCAT, scleral icterus, moist mucous membranes, no 
oropharyngeal exudate or erythema
CV: rrr, II/VI systolic murmur loudest at apex, no r/g, no right 
heave
Lungs: ctab, no wheezes or crackles
Abdomen: soft, nondistended, nontender, +BS
Lymph: tender and palpable LAD in right inguinal crease
Ext: right arm held in flexed position, tender to palpation at 
proximal forearm, tender to passive extension. no dactylitis
Neuro: alert and oriented to person, place, date, month, year. 
CN2-12 intact. ___ hamstrings, quads, L bicep, L tricep. 
antigravity hip flexion and deltoids limited by pain. No 
pronator drift on the R, no asterixis, FNF intact on the L 
(unable to fully assess R given inability to fully extend ___ 
pain) 
Skin: no rash, excoriations, skin abrasions

DISCHARGE EXAM:
=====================
Vitals: 98.3, 98/60, 68, 20, 100% RA
General: NAD, well-appearing, A&Ox3
HEENT: NCAT, anicteric sclera, moist mucous membranes, no 
oropharyngeal exudate or erythema
CV: rrr, III/VI systolic murmur throughout precordium
Lungs: ctab, no wheezes or crackles
Abdomen: soft, nondistended, nontender, +BS
Lymph: palpable LAD in right inguinal crease
Ext: increased spontaneous movement of right arm, tender to 
palpation at proximal forearm, pain on passive extension. 
non-edematous, no erythema, not warm. no dactylitis
Skin: no rash, no excoriations
 
Pertinent Results:
==== ADMISSION LABS ====
___ 10:00AM BLOOD WBC-13.6* RBC-2.68* Hgb-8.3* Hct-24.6* 
MCV-92 MCH-30.9 MCHC-33.6 RDW-20.2* Plt ___
___ 10:00AM BLOOD Neuts-68 Bands-0 ___ Monos-12* 
Eos-1 Baso-0 ___ Myelos-0 NRBC-5*
___ 10:00AM BLOOD Hypochr-NORMAL Anisocy-2+ Poiklo-2+ 
Macrocy-1+ Microcy-1+ Polychr-2+ Ovalocy-2+ Target-2+ 
Sickle-OCCASIONAL Schisto-OCCASIONAL Pappenh-1+ Envelop-1+
___ 10:00AM BLOOD Ret Man-15.9*
___ 10:00AM BLOOD Glucose-86 UreaN-10 Creat-0.7 Na-136 
K-4.0 Cl-100 HCO3-22 AnGap-18
___ 10:00AM BLOOD LD(LDH)-541* TotBili-2.7*
___ 05:24AM BLOOD Calcium-8.3* Phos-3.3 Mg-2.1
___ 10:00AM BLOOD Hapto-<5*
___ 10:00AM BLOOD Lactate-1.6
___ 05:00PM URINE Color-Yellow Appear-Clear Sp ___
___ 05:00PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-2* pH-6.5 Leuks-NEG

==== DISCHARGE LABS ====
___ 05:53AM BLOOD WBC-10.0 RBC-2.21* Hgb-6.9* Hct-20.1* 
MCV-91 MCH-31.2 MCHC-34.2 RDW-19.8* Plt ___
___ 05:53AM BLOOD Ret Man-13.7*
___ 05:53AM BLOOD Glucose-92 UreaN-5* Creat-0.5 Na-136 
K-3.9 Cl-106 HCO3-22 AnGap-12
___ 05:53AM BLOOD LD(___)-415* TotBili-1.8*
___ 05:53AM BLOOD Calcium-8.5 Phos-3.6 Mg-1.7

==== MICROBIOLOGY ====
___ 5:00 pm URINE 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    NO GROWTH.

___ BLOOD CX: pending at time of discharge, NGTD

==== IMAGING ====
___ ECG:
Sinus rhythm. Borderline left ventricular hypertrophy. Compared 
to the previous tracing of ___ no diagnostic change. 

___ CXR (PA AND LAT):
No acute intrathoracic process.  Stable cardiomegaly.
 
Brief Hospital Course:
Mr ___ is a ___ y/o male with sickle cell disease presenting 
with nausea, vomitting, increased scleral icterus, leukocytosis, 
and new ___ right forearm pain in addition to baseline axial 
skeleton pain. 

ACTIVE ISSUES:
===================
# Sickle cell disease with acute pain episode:
Patient with history of SS disease, who recently established 
care with the ___ in ___ (pain service, hematology, and 
PCP). In the setting of his PCP ___ his pain regimen, 
he has had multiple recent hospitalizations for pain (3 
admissions since ___. This admission presenting with new 
elbow joint/surrounding forearm/upper arm pain, which is not 
usual location of pain, in addition to his chronic diffuse 
back/spinal/paraspinal pain and bilateral hip pain. Also with 
nausea/vomiting, reportedly unable to tolerate PO. Possible 
triggers include stress at home (takes care of mother with HIV), 
cold weather, vomiting/dehydration. Low suspicion for infection 
given negative CXR, no new foods, no sick contacts, though some 
burning with urination for weeks, UA/Urine cultures negative. 
Evidence of acute exacerbation of sickle cell disease consistent 
with acute pain episode, with increased retic count, increased 
LDH, and tbili, all of which improved with the treatments 
described below.
1) PAIN: Treated with IV dilaudid 4mg q3h PRN pain (NOT 
standing), and did not escalate dose given patient clinically 
remained very well appearing from admission, despite patient 
requests to escalte dose and frequency, and to add ketamine 
drip. Also treated with standing IV tylenol ___ q8, and 3 day 
course of IV ketorolac 30mg q8, per chronic pain service consult 
recommendations. Also given hot packs for joint pain relief as 
needed.
2) NAUSEA/VOMITING: Patient was initially NPO for his N/V, and 
kept on mIVF with NS at 200cc/hour, and though reported to the 
team and to nursing staff that he was unable to eat anything 
down on PO trials with food, did go to the vending machine 
overnight without evidence of vomiting, and was thought to be 
eating chips/snacks brought in from home. He takes PO 
promethazine at home, and was treated with IV promethazine and 
IV ativan for symptomatic nausea while hospitalized.
3) PRURITIS: Patient reported unbearable pruritis, requesting IV 
benadryl ___ with dilaudid infusions, however without any 
evidence of significant pruritis, no excoriations, and no hives. 
He was offered PO benadryl, however consistently vomited the 
pill or refused to try it.
4) SCD: Ordered for home medications, hydroxyurea and folic 
acid, however given patient was reporting intolerance to PO, he 
did not receive these medications while inpatient. Kept on 
continous O2 and incentive spirometry to avoid development of 
acute chest syndrome.
Patient's outpatient providers, Dr. ___, Dr. 
___ clinic), Dr. ___, were contacted via email 
to ensure treatment was adequate and all providers were in 
agreement with inpatient plan. Patient often contacts separately 
and tries to split providers. Protocol was developed this 
admission to prevent confusion with future acute pain episode 
admissions. This plan for developing a unified protocol was 
communicated to the patient.

# Groin Pain: Painful, palpable inguinal lymphadenopathy was 
worked up at prior hospitalization, and prostatitis, 
GC/chlamydia, and urine culture were negative. MRI last 
admission without evidence of acute infection/fluid 
collection/abscess, with mildly enlarged LNs without signs of 
surrounding inflammation. Patient continues to report stable 
dysuria. UA and urine culture were negative this admission, and 
patient was instructed to follow up with PCP and monitor for 
enlargement or worsening of LNs, with next possible step being 
biopsy.

TRANSITIONAL ISSUES:
========================
# Supplied with 22 pills of 8mg dilaudid on discharge given 
insurance would not cover new prescription of oxycodone given he 
is not due until ___, per PCP who manages outpatient 
narcotics.
# Supplied with prescription, per his PCP, for home dose of 
oxycodone, to cover ___.
# Monitor R inguinal tender lymph nodes with PCP, recommend 
possible future biopsy if persistent or enlarging LNs.
# Code: Full
# Outpatient providers: PCP ___, MD 
___. Pain management: Dr ___ ___ 
# Emergency Contact: ___

=========================
Per discussion with patient's outpatient providers, Dr. ___ 
(___), Dr. ___ clinic), and Dr. ___, 
a protocol for inpatient management was proposed to ensure this 
patient is treated adequately and safely. Finalized protocol 
will be uploaded to OMR, pending input and edits from outpatient 
providers.

INPATIENT ACUTE PAIN EPISODE MANAGEMENT PROTOCOL
 
If patient presents to ___ with evidence of sickle cell 
disease acute pain episode, he should be managed by symptom with 
the following step-wise therapies in the ED and on admission:
 
#) Acute Pain:
1. Start with IV dilaudid 4mg Q4H:PRN pain with IV tylenol 
___ TID standing; offer hot packs to apply to affected 
joints.
2. If persistent pain, can add on 3 day course of IV ketorolac 
30mg q8 standing.
3. If patient still in pain, can increase interval of IV 
dilaudid to Q3, and would not further escalate opioid regimen.
4. Once patient tolerating food, should be transitioned back to 
equivalent doses of oral oxycodone, and can taper down daily to 
home regimen.
5. Do NOT offer ketamine drip (possible cause of previous 
bradycardia during a prior admission).
NOTE: For dilaudid preparation, should ALWAYS be diluted in 50mL 
of NS and given over 30 minutes, ordered with holding 
parameters.  If patient continues to ask for escalation, please 
call chronic pain service to see.
 
#) Nausea:
1. If unable to tolerate PO/actively vomiting, keep strictly 
NPO, and give aggressive mIVF for acute pain episode with normal 
saline at 200cc/hour.
2. Treat nausea with home PO promethazine.
3. If unable to tolerate PO medication and is vomiting, can give 
promethazine 6.25 mg IV Q6H:PRN nausea.
4. If continues with intolerable nausea and vomiting, can add on 
lorazepam 1 mg PO/NG Q8H:PRN nausea.
5. Strict I/Os of any emesis or food intake. Patient should be 
instructed to save emesis for nurse to quantify.
 
#) Pruritis:
1. Start with diphenhydramine 25mg PO Q6H:PRN itching.
2. If no evidence of hives or other signs of significant 
pruritis (excoriations, distress, etc.), DO NOT GIVE IV 
diphenhydramine.
3. Can offer topical creams for relief.
 
#) Sickle Cell Disease:
1. Encourage oral intake of home medications, including 
hydroxyurea and folic acid.
2. Continuous O2 and incentive spirometry to avoid sickle cell 
crisis.
3. Monitor daily labs for evidence of acute pain episode 
progression (LDH, retic count, total bilirubin)
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Docusate Sodium 100 mg PO BID 
2. FoLIC Acid 5 mg PO DAILY 
3. Hydroxyurea 1500 mg PO DAILY 
4. ALPRAZolam 0.5 mg PO TID:PRN anxiety 
5. Exjade (deferasirox) ___ mg oral DAILY 
6. OxycoDONE (Immediate Release)  30 mg PO Q5-6H:PRN pain 
7. Promethazine 25 mg PO Q6H:PRN nausea 

 
Discharge Medications:
1. OxycoDONE (Immediate Release)  30 mg PO Q5-6H:PRN  pain 
Duration: 54 Doses 
RX *oxycodone 30 mg 1 tablet(s) by mouth every ___ hours as 
needed Disp #*54 Tablet Refills:*0
2. Docusate Sodium 100 mg PO BID 
3. FoLIC Acid 5 mg PO DAILY 
4. Hydroxyurea 1500 mg PO DAILY 
5. ALPRAZolam 0.5 mg PO TID:PRN anxiety 
6. Exjade (deferasirox) ___ mg oral DAILY 
7. Promethazine 25 mg PO Q6H:PRN nausea 
8. HYDROmorphone (Dilaudid) 8 mg PO Q5-6H:PRN pain Duration: 22 
Doses 
This is a new medication to treat your pain.  
RX *hydromorphone [Dilaudid] 8 mg 1 tablet(s) by mouth every ___ 
hours as needed Disp #*22 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
- Sickle cell acute pain episode

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you during your recent hospital 
stay at the ___. You came in 
with sickle cell pain episode, with new pain in your right arm, 
and nausea and vomiting with difficulty keeping your medication 
or food down. You were treated with intravenous pain medication, 
and intravenous anti-nausea medications, as well as heating 
packs.

Your medications and future medical appointments are listed 
below for you. It is important that you follow up with your 
primary outpatient providers to ensure your symptoms improve.

We wish you the best with your health.

Sincerely,
Your ___ Care Team
 
Followup Instructions:
___